US06239131B1
Preparation of 1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclopentyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Bromomethyl tert-butylketone (684 mg), potassium iodide (26.4 mg), tetra n-butylammonium bromide (30.8 mg) and potassium carbonate (528 mg) were added successively to a solution of 2-oxo-3-tert-butoxycarbonylamino-5-cyclopentyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (1.1 g) in N,N-dimethylformamide (30 ml), the mixture was stirred at room temperature for 2 hours. Ice-water was added to the reaction mixture, extracted with ethyl acetate, the organic layer was washed with saturated brine. The resultant mixture was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and n-hexane was added to the residue for crystallization, collected by filtration, to thereby obtain 1.07 g of the title compound.

reactant | Bromomethyl tert-butylketone | 684 mg | BrCC(=O)C(C)(C)C | C6H11BrO
reactant | potassium carbonate | 528 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-oxo-3-tert-butoxycarbonylamino-5-cyclopentyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.1 g | O=C1C(CN(C2=C(N1)C=CC=C2)C2CCCC2)NC(=O)OC(C)(C)C | C19H27N3O3
catalyst | tetra n-butylammonium bromide | 30.8 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 26.4 mg | [I-].[K+]
product | 1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclopentyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.07 g | C(C)(C)(C)C(=O)CN1C(C(CN(C2=C1C=CC=C2)C2CCCC2)NC(=O)OC(C)(C)C)=O | C25H37N3O4
